US04871765
267 g of diphenyl carbonate and 298 g of phosphorus pentachloride were reacted at 160° C. for 15 hours with distilling off the phosphorus oxychloride generated by the reaction. After the completion of the reaction, phosphorus oxychloride and residual phosphorus pentachloride were removed by distillation under reduced pressure to obtain dichloro-diphenoxymethane. Thereto were added 600 ml of anhydrous ethyl acetate and 148 g of methanesulfonamide, and the mixture was refluxed for 8 hours. After cooling, 1 liter of n-hexane was added to the mixture and the crystals deposited were collected by filtration. The crystals were washed with water and dried to obtain 179 g (yield: 49%) of diphenyl methanesulfonylimidocarbonate having a melting point of 124°-125.5° C.

reactant | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
reactant | methanesulfonamide | 148 g | CS(=O)(=O)N | CH5NO2S
reactant | n-hexane | 1 liter | CCCCCC | C6H14
product | diphenyl methanesulfonylimidocarbonate | 179 g, yield: 49% | CS(=O)(=O)N=C(OC1=CC=CC=C1)OC1=CC=CC=C1 | C14H13NO4S
